US06908930B2
SYNTHESIS OF 5-[4-(1-BENZYL-1H-INDOL-5-YLAMINO)-6-OXO-6,7-DIHYDRO-PYRROLO[2,3-D]PYRIMIDIN-5-YLIDENEMETHYL]-1H-PYRROLE-2-CARBOXYLIC ACID (2-MORPHOLIN-4-YL-ETHYL)-AMIDE HYDROCHLORIDE (FORMULA 12)
A mixture of 5-(4-chloro-6-oxo-6.7-dihydro-pyrrolo[2,3-d]pyrimidin-5-ylidenemethyl)-1H-pyrrole-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide, 1-benzyl-1H-indol-5-ylamine and p-toluenesulfonic acid (5 mg) in 2 mL of 1-methyl-2-pyrrodinone and 2-methoxyethyl ether (1:3) was heated at 170-185° C. for 7 to 15 hours. The reaction mixture was evaporated to dryness and purified by reversed phase HPLC, then dissolved in 2N HCl and acetontrile and freeze-dried to give 13.5 mg (42%) of the title compound. MS 589.3 [M++1].

reactant | 5-(4-chloro-6-oxo-6.7-dihydro-pyrrolo[2,3-d]pyrimidin-5-ylidenemethyl)-1H-pyrrole-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide | N1(CCOCC1)CCNC(=O)C=1NC(=CC1)C=C1C(NC=2N=CN=C(C21)Cl)=O | C18H19ClN6O3
reactant | 1-benzyl-1H-indol-5-ylamine | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)N | C15H14N2
reactant | p-toluenesulfonic acid | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 2-methoxyethyl ether | COCCOCCOC | C6H14O3
product | 5-[4-(1-BENZYL-1H-INDOL-5-YLAMINO)-6-OXO-6,7-DIHYDRO-PYRROLO[2,3-D]PYRIMIDIN-5-YLIDENEMETHYL]-1H-PYRROLE-2-CARBOXYLIC ACID (2-MORPHOLIN-4-YL-ETHYL)-AMIDE HYDROCHLORIDE | 13.5 mg, 42% | Cl.N1(CCOCC1)CCNC(=O)C=1NC(=CC1)C=C1C(NC=2N=CN=C(C21)NC=2C=C1C=CN(C1=CC2)CC2=CC=CC=C2)=O | InChI=1S/C33H32N8O3.ClH/c42-32-26(19-25-6-8-27(37-25)33(43)34-11-13-40-14-16-44-17-15-40)29-30(35-21-36-31(29)39-32)38-24-7-9-28-23(18-24)10-12-41(28)20-22-4-2-1-3-5-22;/h1-10,12,18-19,21,37H,11,13-17,20H2,(H,34,43)(H2,35,36,38,39,42);1H
